US08835488B2
Into a vial were added 2-[(9R)-9-(Pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]ethan-1-amine (500 mg, 1.92 mmole), 18 mL CH2Cl2 and sodium sulfate (1.3 g, 9.6 mmole). The 3-methoxythiophene-2-carboxaldehyde (354 mg, 2.4 mmole) was then added, and the mixture was stirred overnight. NaBH4 (94 mg, 2.4 mmole) was added to the reaction mixture, stirred for 10 minutes, and then MeOH (6.0 mL) was added, stirred 1 h, and finally quenched with water. The organics were separated off and evaporated. The crude residue was purified by a Gilson prep HPLC. The desired fractions collected and concentrated and lyophilized. After lyophilization, residue was partitioned between CH2Cl2 and 2N NaOH, and the organic layers were collected. After solvent was concentrated to half of the volume, 1.0 eq of 1N HCl in Et2O was added, and majority of solvent evaporated under reduced pressure. The solid obtained was washed several times with Et2O and dried to provide [(3-methoxythiophen-2-yl)methyl]({2-[(9R)-9-(pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]ethyl})amine monohydrochloride (336 mg, 41% yield, m/z 387.0 [M+H]+ observed) as a white solid. The NMR for Compound 140 is described herein.

reactant | 2-[(9R)-9-(Pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]ethan-1-amine | 1.92 mmole, 500 mg | N1=C(C=CC=C1)[C@@]1(CCOC2(CCCC2)C1)CCN | C16H24N2O
reactant | sodium sulfate | 9.6 mmole, 1.3 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-methoxythiophene-2-carboxaldehyde | 2.4 mmole, 354 mg | COC1=C(SC=C1)C=O | C6H6O2S
reactant | NaBH4 | 2.4 mmole, 94 mg | [BH4-].[Na+]
reactant | HCl | 1N, 1.0 eq | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
solvent | MeOH | 6.0 mL | CO | CH4O
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
product | [(3-methoxythiophen-2-yl)methyl]({2-[(9R)-9-(pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]ethyl})amine monohydrochloride | 336 mg, 41% yield | Cl.COC1=C(SC=C1)CNCC[C@]1(CCOC2(CCCC2)C1)C1=NC=CC=C1 | InChI=1S/C22H30N2O2S.ClH/c1-25-18-7-15-27-19(18)16-23-13-10-21(20-6-2-5-12-24-20)11-14-26-22(17-21)8-3-4-9-22;/h2,5-7,12,15,23H,3-4,8-11,13-14,16-17H2,1H3;1H/t21-;/m1./s1
